US05843989
A mixture of 4-hydroxy-3-iodoacetophenone (5.24 g), 40% sodium hydroxide solution (4.8 ml), water (19 ml), xylene (11 ml) and 3-chloro-3-methylbut-1-yne (4.1 g) was heated to 90° C. for 3 hrs. The mixture was cooled and extracted with ether, and the ether extracts were washed with 2N sodium hydroxide solution, water and brine and dried over anhydrous sodium sulphate. The ethereal solution was filtered and evaporated, and the xylene solution that remained was refluxed for 16 hrs. The solution was evaporated and the residue chromatographed on silica gel using 10% ethyl acetate in hexane to give 6-acetyl-8-iodo-2,2-dimethyl-2H-1-benzopyran as a colourless solid (3.07 g), m.p. 102° C.

reactant | 4-hydroxy-3-iodoacetophenone | 5.24 g | CC(=O)C1=CC(=C(C=C1)O)I | C8H7IO2
reactant | sodium hydroxide | 4.8 ml | [OH-].[Na+]
reactant | water | 19 ml | O | H2O
reactant | 3-chloro-3-methylbut-1-yne | 4.1 g | ClC(C#C)(C)C | C5H7Cl
solvent | xylene | 11 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-acetyl-8-iodo-2,2-dimethyl-2H-1-benzopyran | 3.07 g | C(C)(=O)C=1C=C(C2=C(C=CC(O2)(C)C)C1)I | C13H13IO2
